US08710100B2
A mixture of 2-hydroxy-3-(4-nitrophenyl)acrylic acid (15 g, 71.7 mmol), cesium carbonate (56 g, 172.1 mmol) and dimethyl sulphate (14.2 ml, 150.6 mmol) in DMF (270 ml) was stirred at RT for 18 hr. Water (220 ml) and ethyl acetate (150 ml) were added and the layers separated. The aqueous layer was further extracted with ethyl acetate (4×100 ml) then the combined organics were washed with water (6×100 ml), brine (2×120 ml) and concentrated to half volume. Heptane was added (70 ml) and the mixture concentrated to 200 ml volume. The resulting precipitated solid was collected by filtration, washed with heptane (2×100 ml) and suction dried on the filter to afford methyl 2-methoxy-3-(4-nitrophenyl)acrylate as a tan solid (9.2 g, 54% yield) containing a trace of heptane.

reactant | 2-hydroxy-3-(4-nitrophenyl)acrylic acid | 71.7 mmol, 15 g | OC(C(=O)O)=CC1=CC=C(C=C1)[N+](=O)[O-] | C9H7NO5
reactant | cesium carbonate | 172.1 mmol, 56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl sulphate | 150.6 mmol, 14.2 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | Water | 220 ml | O | H2O
solvent | DMF | 270 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-methoxy-3-(4-nitrophenyl)acrylate | 9.2 g, 54% yield | COC(C(=O)OC)=CC1=CC=C(C=C1)[N+](=O)[O-] | C11H11NO5
